US07022689B2
To a solution of 0.387 g of ethyl [[2-(2-tert-butoxycarbonylaminoethyl)-5-isopropylphenyl]sulfamoyl]acetate in 5 mL of N,N-dimethylformamide were added 0.131 g of potassium carbonate and 0.169 g of ethyl iodide at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.342 g of ethyl [[2-(2-tert-butoxycarbonylaminoethyl)-5-isopropylphenyl](ethyl)sulfamoyl]acetate.

reactant | ethyl [[2-(2-tert-butoxycarbonylaminoethyl)-5-isopropylphenyl]sulfamoyl]acetate | 0.387 g | C(C)(C)(C)OC(=O)NCCC1=C(C=C(C=C1)C(C)C)NS(=O)(=O)CC(=O)OCC | C20H32N2O6S
reactant | potassium carbonate | 0.131 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.169 g | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl [[2-(2-tert-butoxycarbonylaminoethyl)-5-isopropylphenyl](ethyl)sulfamoyl]acetate | 0.342 g | C(C)(C)(C)OC(=O)NCCC1=C(C=C(C=C1)C(C)C)N(S(=O)(=O)CC(=O)OCC)CC | C22H36N2O6S
